US06069156
To a stirred solution of methyl 1-(2-bromobenzyl)-2-propylindole-6-carboxamide (52 mg) in a mixture of dichloromethane (3 ml) and pyridine (1 ml) was added pyridinium bromide perbromide (50 mg), and the mixture was stirred at 0° C. for 1.5 hours. The resulting mixture was diluted with ethyl acetate and washed with diluted hydrochloric acid, aqueous sodium bicarbonate and brine, then dried over sodium sulfate and evaporated in vacuo. The residue was triturated with a mixture of hexane and diisopropyl ether to give 3-bromo-1-(2-bromobenzyl)-2-propylindole-6-carboxamide (33 mg) as a solid.

reactant | methyl 1-(2-bromobenzyl)-2-propylindole-6-carboxamide | 52 mg | CC1=C(N(C2=CC(=CC=C12)C(=O)N)CC1=C(C=CC=C1)Br)CCC | C20H21BrN2O
reactant | pyridinium bromide perbromide | 50 mg | C1=CC=[NH+]C=C1.Br[Br-]Br
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-bromo-1-(2-bromobenzyl)-2-propylindole-6-carboxamide | 33 mg | BrC1=C(N(C2=CC(=CC=C12)C(=O)N)CC1=C(C=CC=C1)Br)CCC | C19H18Br2N2O
